US07371743B2
(c) ethyl 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoate
Prepared analogously to Example 41c from ethyl 3-chloro-4-[2-(hydroxycarbonyl-methoxy)-1-methyl-ethylamino]-benzoate and thionyl chloride with DMF in dichloromethane.

reactant | ethyl 3-chloro-4-[2-(hydroxycarbonyl-methoxy)-1-methyl-ethylamino]-benzoate | ClC=1C=C(C(=O)OCC)C=CC1NC(COCC(=O)O)C | C14H18ClNO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoate | ClC=1C=C(C(=O)OCC)C=CC1N1C(COCC1C)=O | C14H16ClNO4
